US05847159
To a solution of diethyl carbonate (200 g) in toluene (800 ml) was added 60% sodium hydride (27.4 g), and the mixture was stirred at 50° C. for 30 minutes, and thereto was added dropwise a solution of 3,4-dihydro-1(2H)-napthalenone (50 g) in toluene (200 ml). The mixture was refluxed for one hour, and poured into ice-water, and the mixture was neutralized with acetic acid. The toluene layer was collected, washed successively with an aqueous potassium carbonate solution and water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by distillation under reduced pressure to give ethyl 1,2,3,4-tetrahydro-1-oxo-2-naphthalenecarboxylate (47 g) as an oily product, b.p. 135°-145° C./2 mmHg.

reactant | diethyl carbonate | 200 g | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | 27.4 g | [H-].[Na+]
reactant | 3,4-dihydro-1(2H)-napthalenone | 50 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 1,2,3,4-tetrahydro-1-oxo-2-naphthalenecarboxylate | 47 g | O=C1C(CCC2=CC=CC=C12)C(=O)OCC | C13H14O3
